US06051712
A solution of 60 mg (0.11 mg) of tert-butyl (3RS,4RS,5SR)-4-(4-bromo-phenyl)-5-methoxymethyl-3-naphthalen-2-yl-methoxy-piperidine-1-carboxylate in 5 ml of methylene chloride was treated with 2 ml of 2 N hydrogen chloride in methanol and stirred at room temperature for 2 hours. For the working-up, the reaction solution was evaporated under reduced pressure. The residue was recrystallized from diethyl ether and gave 53 mg (98% of theory) of (3RS,4RS,5SR)-4-(4-bromo-phenyl)-5-methoxymethyl-3-naphthalen-2-yl-methoxy-piperidine hydrochloride as a colourless solid; MS: 442 (M+H)+.

reactant | tert-butyl (3RS,4RS,5SR)-4-(4-bromo-phenyl)-5-methoxymethyl-3-naphthalen-2-yl-methoxy-piperidine-1-carboxylate | 60 mg | BrC1=CC=C(C=C1)C1C(C(N(CC1COC)C(=O)OC(C)(C)C)OC)C1=CC2=CC=CC=C2C=C1 | C29H34BrNO4
reactant | hydrogen chloride | 2 N, 2 ml | Cl | ClH
reactant | methanol | CO | CH4O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (3RS,4RS,5SR)-4-(4-bromo-phenyl)-5-methoxymethyl-3-naphthalen-2-yl-methoxy-piperidine hydrochloride | 53 mg, 98% | Cl.BrC1=CC=C(C=C1)C1C(CN(CC1COC)OC)C1=CC2=CC=CC=C2C=C1 | InChI=1S/C24H26BrNO2.ClH/c1-27-16-21-14-26(28-2)15-23(24(21)18-9-11-22(25)12-10-18)20-8-7-17-5-3-4-6-19(17)13-20;/h3-13,21,23-24H,14-16H2,1-2H3;1H
